US07368479B2
suspension of 1-(4-chloro-phenoxy)-propan-2-one (3.7 g, 20 mmol), ammonium chloride (1.6 g, 29.2 mmol) and sodium cyanide (1.15 g, 23.3 mmol) in a solution of aqueous ammonia (100 ml, 28%) is stirred vigorously at room temperature for 20 hours. The aqueous phase is extracted repeatedly with ethyl acetate. The collected organic extracts are dried and the solvent is evaporated under reduced pressure to give the 2-(4-chlorophenoxy-methyl)-2-amino-propionitrile as a solid. c) A solution of 2-(4-chlorophenoxy-methyl)-2-amino-propionitrile (0.5 g, 2.4 mmol) and benzylsulfonyl chloride (0.5 g, 2.6 mmol) in pyridine (5 ml) is heated at +80° C. with stirring in the presence of DMAP (0.02 g) for about 16 hours. The reaction mixture is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate and the product is purified by flash chromatography (eluent: ethyl acetate/hexanes 1:3) to give the 2-(4-chlorophenoxy-methyl)-2-benzylsulfonylamino-propionitrile in form of a colorless solid, m.p. 120-121° C.

reactant | 2-(4-chlorophenoxy-methyl)-2-amino-propionitrile | 2.4 mmol, 0.5 g | ClC1=CC=C(OCC(C#N)(C)N)C=C1 | C10H11ClN2O
reactant | benzylsulfonyl chloride | 2.6 mmol, 0.5 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chlorophenoxy-methyl)-2-benzylsulfonylamino-propionitrile | ClC1=CC=C(OCC(C#N)(C)NS(=O)(=O)CC2=CC=CC=C2)C=C1 | C17H17ClN2O3S
